US09056873B2
In a 30 mL sealed cap glass vial, tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (150 mg, 0.299 mmol), potassium trifluoro(phenethyl)borate (76 mg, 0.359 mmol) and PdCl2(PPh3)2 (42.0 mg, 0.060 mmol) were dissolved in dioxane (5 mL). To the reaction mixture was added 2N aqueous sodium carbonate solution (2.0 mL). The cap was sealed and the reaction mixture was heated at 85° C. for 3 hours. The reaction mixture was subsequently diluted with water (5 mL) and extracted with EtOAc (2×30 mL). The combined organic phase was dried over sodium sulfate and evaporated to give the intermediate, tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-7-fluoro-3-oxo-4-phenethyl-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate, which was treated with TFA (4 mL) at room temperature for 1 hour to remove the protecting groups. TFA was subsequently evaporated from the reaction mixture. The residual material was dissolved in DMSO (8 mL) and purified by preparative HPLC, eluting with a gradient of 20-55% ACN (0.035% TFA) and water (0.05% TFA). The pure product fractions were combined, evaporated to a minimal volume, and lyophilized to give a TFA salt of the title compound as a light yellow solid (42 mg, 38%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.58-1.75 (m, 1H), 1.95-2.17 (m, 1H), 2.83-3.04 (m, 2H), 3.16-3.32 (m, 1H), 3.32-3.46 (m, 1H), 3.47-3.61 (m, 1H), 3.66 (d, J=11.37 Hz, 1H), 3.83-4.03 (m, 2H), 4.22-4.39 (m, 3H), 6.99 (d, J=5.05 Hz, 1H), 7.09-7.33 (m, 5H), 7.93 (br s, 2H), 8.32 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C20H23FN4O2, 371. found, 371.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.299 mmol, 150 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
reactant | potassium trifluoro(phenethyl)borate | 0.359 mmol, 76 mg | [B-](CCC1=CC=CC=C1)(F)(F)F.[K+]
reactant | sodium carbonate | 2N, 2.0 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | PdCl2(PPh3)2 | 0.060 mmol, 42.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-7-fluoro-3-oxo-4-phenethyl-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)CCC1=CC=CC=C1)C(N(C2)C(=O)OC(C)(C)C)=O)F | C30H39FN4O6
